US08865713B2
Step A: 5-Bromo-4-fluoro-2-nitro-phenylamine.
A mixture of 1-bromo-2,5-difluoro-4-nitro-benzene (1.50 g, 6.30 mmol) and 7M ammonia in methanol (25 mL) was heated in a sealed tube at 60° C. for 15 h. The reaction mixture was transferred to a round bottom flask, washing the sealed tube with EtOAc. The reaction mixture was concentrated, and the crude material was used in the next step without further purification.

reactant | 1-bromo-2,5-difluoro-4-nitro-benzene | 6.30 mmol, 1.50 g | BrC1=C(C=C(C(=C1)F)[N+](=O)[O-])F | C6H2BrF2NO2
reactant | ammonia | 7M | N | H3N
solvent | methanol | 25 mL | CO | CH4O
product | 5-Bromo-4-fluoro-2-nitro-phenylamine | BrC=1C(=CC(=C(C1)N)[N+](=O)[O-])F | C6H4BrFN2O2
